US07115750B1
N-[6-[2-(Dimethylamino)ethyl]-7,8-dihydro-2-naphthalenyl][1,1′-biphenyl]-4-carboxamide
Concentrated hydrochloric acid (1.5 ml) was added to N-[6-[2-(dimethylamino)ethyl]-7,8-dihydro-2-naphthalenyl]acetamide (57.5 mg, 0.223 mmol) obtained in Reference Example 104, which was stirred at 100° C. for 1 hour. The solvent was distilled out under reduced pressure. Ethyl acetate was added to the residue, which was washed with aqueous potassium carbonate solution and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and then the solvent was distilled out under reduced pressure. WSC (29.2 mg, 0.139 mmol) was added to a dimethylformamide solution (0.7 ml) of the resulting oily substance (30 mg, 0.139 mmol), [1,1′-biphenyl]-4-carboxylic acid (30.2 mg, 0.139 mmol) and DMAP (16.9 mg, 0.139 mmol) under ice-cooling, which was stirred at room temperature for 16 hours. Ethyl acetate was added to the reaction mixture, which was washed with aqueous potassium carbonate solution and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and then the solvent was distilled out under reduced pressure. The resulting residue was purified by aluminum column chromatography (development solvent; ethyl acetate), powdered with ethyl acetate-isopropyl ether (1:5), to give the titled compound (12.4 mg).

reactant | hydrochloric acid | 1.5 ml | Cl | ClH
reactant | N-[6-[2-(dimethylamino)ethyl]-7,8-dihydro-2-naphthalenyl]acetamide | 0.223 mmol, 57.5 mg | CN(CCC1=CC=2C=CC(=CC2CC1)NC(C)=O)C | C16H22N2O
reactant | WSC | 0.139 mmol, 29.2 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | [1,1′-biphenyl]-4-carboxylic acid | 0.139 mmol, 30.2 mg | C1(=CC=C(C=C1)C(=O)O)C1=CC=CC=C1 | C13H10O2
catalyst | DMAP | 0.139 mmol, 16.9 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 0.7 ml | CN(C=O)C | C3H7NO
product | N-[6-[2-(Dimethylamino)ethyl]-7,8-dihydro-2-naphthalenyl][1,1′-biphenyl]-4-carboxamide | 12.4 mg | CN(CCC1=CC=2C=CC(=CC2CC1)NC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)C | C27H28N2O
